US06426067B1
Preparation of Sodium 3,5-Dicarboxyphenylthiourea Terminated Dendrimers
Trifluoroacetic acid (3 ml) was added to a stirred suspension of BHAlyslys2lys4lys8lys16DBL32 (300 mg; 0.02 mmol) in dry dichloromethane (3 ml) and the resulting solution stirred at room temperature under nitrogen for two hours and then concentrated. The residue was dissolved in water and the solution passed through a column of Amberlite IRA 401 (OH) and the filtrate concentrated to give a viscous oil (186 mg). The oil was dissolved in a 1:1 mixture of pyridine/water (8 ml) and sodium 3,5-dicarboxyphenyl isothiocyanate (450 mg; 2 mmol) added. The resulting solution was heated at 53° C. for 13 hours under nitrogen. The solution was then concentrated to give a white solid residue. The crude product was purified by gel filtration (Sephadex LH20; water) to give BHAlyslys2lys4lys8lys16lys32 with 64 sodium 3,6-dicarboxyphenylurea groups as a white fluffy solid.

reactant | sodium 3,5-dicarboxyphenyl isothiocyanate | 2 mmol, 450 mg | C(=O)(O)C=1C=C(C=C(C1)C(=O)O)N=C=S.[Na]
reactant | pyridine water | 8 ml | N1=CC=CC=C1.O
product | Sodium 3,5-Dicarboxyphenylthiourea | C(=O)(O)C=1C=C(C=C(C1)C(=O)O)NC(=S)N.[Na] | InChI=1S/C9H8N2O4S.Na/c10-9(16)11-6-2-4(7(12)13)1-5(3-6)8(14)15;/h1-3H,(H,12,13)(H,14,15)(H3,10,11,16);
